US05519034
Cyclobutanecarbonyl chloride (19 g) was added dropwise at ambient temperature to a stirred solution of 3,4-dimethoxyphenethylamine (30.5 g) and triethylamine (23.5 ml) in tetrahydrofuran (11). After 1.5 hours the mixture was poured onto dilute hydrochloric acid (1 l) and the product was extracted into ethyl acetate. The extracts yielded N-[2-(3,4-dimethoxyphenyl)ethyl]cyclobutanecarboxamide (44 g) which was used without further purification.

reactant | Cyclobutanecarbonyl chloride | 19 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 3,4-dimethoxyphenethylamine | 30.5 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | triethylamine | 23.5 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 l | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]cyclobutanecarboxamide | 44 g | COC=1C=C(C=CC1OC)CCNC(=O)C1CCC1 | C15H21NO3
